US06544976B1
(2S)-Methyl-1-[(1,5-dimethylpyrazol-3-yl)carbonyl]azetidine-2-carboxylate
To a mixture of the 1,5-dimethylpyrazole-3-carboxylic acid (433.1 mg, 3.09 mmol, 1.0 eq), diisopropylcarbodiimide (0.74 mL, 4.73 mmol, 1.5 eq), camphorsulfonic acid (300.6 mg, 1.29 mmol, 0.4 eq) and dimethylaminopyridine (129.7 mg, 1.06 mmol, 0.3 eq) in dry dichloromethane (30 mL) was added (2S)-methyl azetidine-2-carboxylate (474.4 mg, 3.13 mmol, 1.0 eq) in dry dichloromethane (12 mL) at about room temperature. The mixture was stirred at about room temperature for about 24 hours under argon. The solid was filtered off and washed with ether. The organic filtrate was concentrated and the residue subjected to flash chromatography (1-10% methanol in dichloromethane) to give 429.9 mg (58% yield) of the product. 1H NMR (CDCl3) δ 2.22-2.77 (series of s and m, 5H); 3.64-3.84 (series of s, 6H); 4.08-4.73 (series of m, 2H); 4.89 and 5.29 (dd, 1H, J=9.4, 6.0); 6.53 (s, 1H).

reactant | 1,5-dimethylpyrazole-3-carboxylic acid | 3.09 mmol, 433.1 mg, 1.0 eq | CN1N=C(C=C1C)C(=O)O | C6H8N2O2
reactant | diisopropylcarbodiimide | 4.73 mmol, 0.74 mL, 1.5 eq | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | camphorsulfonic acid | 1.29 mmol, 300.6 mg, 0.4 eq | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | dimethylaminopyridine | 1.06 mmol, 129.7 mg, 0.3 eq | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | (2S)-methyl azetidine-2-carboxylate | 3.13 mmol, 474.4 mg, 1.0 eq | N1[C@@H](CC1)C(=O)OC | C5H9NO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | (2S)-Methyl-1-[(1,5-dimethylpyrazol-3-yl)carbonyl]azetidine-2-carboxylate | 429.9 mg, 58% yield | COC(=O)[C@H]1N(CC1)C(=O)C1=NN(C(=C1)C)C | C11H15N3O3
